US06110962
[11-(4-Carboxymethoxy-phenyl)-benzo[b]naphtho[2,3-d]thiophen-3-yloxy]-acetic acid
1.0 N Aqueous potassium hydroxide (8.0 mL, 8.0 mmol) was added to a stirred suspension of [11 -(4-methoxycarbonylmethoxy-phenyl)-benzo[b]naphtho[2,3-d ]thiophen-3-yloxy]-acetic acid methyl ester (0.750 g, 1.54 mmol) in THF (20 mL) and methanol (13 mL). Dissolution occurred. After 3 h at ambient temperature, the reaction mixture was diluted with water and extracted with ether (100 mL). The aqueous phase was acidified with 10% aqueous HCl and filtered. The solid was washed with water and triturated with pet. ether. The solid was dried in vacuo at 70° C. to provide a grey solid. This solid was recrystalized from acetic acid to provide the title compound as a white solid (0.502, 71%): mp 220-222° C.: NMR (DMSO-d6); δ12.8 (broad s, 2 H), 8.54 (s, 1 H), 8.02 (d, J=8 Hz, 1 H), 7.56-7.40 (m, 4 H), 7.31 (d, J=8 Hz, 2 H), 7.23 (d, J=8 Hz, 2 H), 6.73 (dd, J=9, 1 Hz, 1 H), 6.56 (d, J=9 Hz, 1 H), 4.85 (s, 2 H), 4.74 (s, 2 H), 1.97 (s, 2.49 H, 0.83 mol acetic acid); MS (FAB+): 459 (20%, M+H); Anal. Calc. for C26H18O6S.0.83CH3CO2 H: C, 65.46, H, 4.24, N, 0.00. Found: C, 64.47, H, 4.05, N, 0.03.

reactant | potassium hydroxide | 8.0 mmol, 1.0 N, 8.0 mL | [OH-].[K+]
reactant | [11 -(4-methoxycarbonylmethoxy-phenyl)-benzo[b]naphtho[2,3-d ]thiophen-3-yloxy]-acetic acid methyl ester | 1.54 mmol, 0.750 g | COC(COC=1C=CC2=C(SC3=C2C(=C2C=CC=CC2=C3)C3=CC=C(C=C3)OCC(=O)OC)C1)=O | C28H22O6S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 13 mL | CO | CH4O
solvent | water | O | H2O
product | [11-(4-Carboxymethoxy-phenyl)-benzo[b]naphtho[2,3-d]thiophen-3-yloxy]-acetic acid | 71% | C(=O)(O)COC1=CC=C(C=C1)C1=C2C=CC=CC2=CC2=C1C1=C(S2)C=C(C=C1)OCC(=O)O | C26H18O6S
